US20010014677A1
3-[3-{1-(1,3-Benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]propanoic acid
10% Palladium-on-carbon (10 mg) was added to a stirred solution of (E)-3-[3-{1-(1,3-benzodioxol-5-yl )-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]-2-propenoic acid (the compound of Example 38, 80 mg, 0.14 mmol) and ammonium formate (64 mg, 0.5 mmol) in a 1:1 mixture of tetrahydrofuran and ethanol (10 ml total). The mixture was stirred at reflux for 48 h. cooled, filtered through Arbocel™ and concentrated. The grey foam was purified by flash column chromatography (elution with 98% dichloromethane 2% methanol) giving the product as a white foam. 1H NMR (300 Hz, CDCl3): δ=1.25 (d, 6H), 2.70 (t, 2H), 3.00 (m, 3H), 3.60 (s, 3H), 4.95 (s, 1H), 5.90 (s, 2H), 6.60 (m, 4H), 6.80 (d, 1H), 7.00 (d, 1H) 7.10 (s, 1H), 7.40 (d, 2H), 7.80 (d, 2H), 8.20 (brs. 1H). LRMS (Thermospray): 563.6 (MH+).

reactant | (E)-3-[3-{1-(1,3-benzodioxol-5-yl )-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]-2-propenoic acid | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)/C=C/C(=O)O)C | C30H28N2O7S
reactant | ammonium formate | 0.5 mmol, 64 mg | C(=O)[O-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Palladium-on-carbon | 10 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[3-{1-(1,3-Benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolyl]propanoic acid | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)CCC(=O)O)C | C30H30N2O7S
